US04645794
Preparation of 2,3-epoxypropyltrimethylammonium bromide
A flask equipped with a sparger, mechanical stirrer, thermometer and efficiency condenser was charged with acetone (500 milliliters) at ambient temperature. Trimethylamine (58 grams, 0.98 mol) was charged into the solution. The pot was cooled to 10° C. and epibromohydrin (137 grams, 1.0 mol) was added dropwise over a 1 hour period. The resultant cloudy solution was allowed to slowly rise to ambient temperature and stand for 60 hours. Precipitate was collected by filtration washed with acetone (60 milliliters) and dried yielding a colorless crystalline product (179.4 grams, 94%).

reactant | Trimethylamine | 0.98 mol, 58 grams | CN(C)C | C3H9N
reactant | epibromohydrin | 1.0 mol, 137 grams | C(Br)C1CO1 | C3H5BrO
solvent | acetone | 500 milliliters | CC(=O)C | C3H6O
product | 2,3-epoxypropyltrimethylammonium bromide | 179.4 grams, 94% | [Br-].O1C(C[N+](C)(C)C)C1 | InChI=1S/C6H14NO.BrH/c1-7(2,3)4-6-5-8-6;/h6H,4-5H2,1-3H3;1H/q+1;/p-1
